US07728025B2
(Step 1) Production of tert-butyl (3-fluoro-4-hydroxy-phenyl)-carbamate
600 mg of 10% palladium-carbon catalyst was added to a methanol (100 ml) solution of 6.15 g of 3-fluoro-4-hydroxynitrobenzene and 930 mg of di-tert-butyl dicarbonate, and the reaction liquid was stirred overnight in a hydrogen atmosphere. The catalyst was removed through filtration, the solvent was evaporated away, and the residue was taken out through filtration with a mixed solvent of ethyl acetate/hexane to obtain the entitled compound.

reactant | 3-fluoro-4-hydroxynitrobenzene | 6.15 g | FC=1C=C(C=CC1O)[N+](=O)[O-] | C6H4FNO3
reactant | di-tert-butyl dicarbonate | 930 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | hydrogen | [H][H] | H2
catalyst | palladium-carbon | 600 mg | [C].[Pd]
solvent | methanol | 100 ml | CO | CH4O
product | tert-butyl (3-fluoro-4-hydroxy-phenyl)-carbamate | FC=1C=C(C=CC1O)NC(OC(C)(C)C)=O | C11H14FNO3
